US06774138B2
Reactants: 2-ethynylpyridine (6.0 mmol, 618 mg), 3,5-dimethylcyclohexanone (6.0 mmol, 0.85 mL); yields 2-[(3,5-dimethyl-1-cyclohexen-1-yl)ethynyl]pyridine as a transparent yellow oil (500 mg, 39% overall yield) as a mixture of diastereomers. 1H NMR (CDCl3, 300 MHz) δ 8.57 (m, 1H), 7.62 (m, 1H), 7.40 (m, 1H), 7.19 (m, 1H), 6.15 (br s, 1H), 2.29 (m, 2H), 1.80 (br m, 2H), 1.00 (m, 6H), 0.88 (br m, 2H). MS (EI ionization) 211 (M+).

reactant | 2-ethynylpyridine | 6.0 mmol, 618 mg | C(#C)C1=NC=CC=C1 | C7H5N
reactant | 3,5-dimethylcyclohexanone | 6.0 mmol, 0.85 mL | CC1CC(CC(C1)C)=O | C8H14O
product | 2-[(3,5-dimethyl-1-cyclohexen-1-yl)ethynyl]pyridine | CC1C=C(CC(C1)C)C#CC1=NC=CC=C1 | C15H17N
